US04236004
5-amino-7,8-dihydro-2-(methylphenylamino)-7-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To 10 g. (0.044 moles) of 4-amino-2-(methylphenylamino)-5-pyrimidine-carbonitrile in 200 ml. of tetrahydrofuran was added 6.7 g. (0.044 moles) of ethyl malonyl chloride and then this mixture was heated at reflux for 2 hours. The reaction was then filtered and the filtercake rinsed with tetrahydrofuran. The filtrate was evaporated to dryness on a rotary evaporator. The viscous liquid residue was treated with 50 ml. of 20% NaOH and heated to boiling for 5 minutes. The resulting solid was removed by filtration. This solid was slurried in water, acidified with acetic acid and filtered. The crude product was recrystallized from 95% ethanol to give 1.05 g. of solid with m.p. 297° C. (dec).

reactant | 4-amino-2-(methylphenylamino)-5-pyrimidine-carbonitrile | 0.044 moles | NC1=NC(=NC=C1C#N)N(C1=CC=CC=C1)C | C12H11N5
reactant | ethyl malonyl chloride | 0.044 moles | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-amino-7,8-dihydro-2-(methylphenylamino)-7-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)N(C2=CC=CC=C2)C)NC1=O)N | C17H17N5O3
